US07235581B2
(RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid Methylamide
The title compound is prepared in analogy to Example 6d) from (RS)-2-oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid and methylamine. Yield: 6% of a colorless solid. MS: m/e=393.2 (M+H)+.

reactant | (RS)-2-oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid | O=C1N(CCC1C(=O)O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C19H16F3NO4
reactant | methylamine | CN | CH5N
product | (RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid Methylamide | CNC(=O)C1C(N(CC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)=O | C20H19F3N2O3
